US06248755B1
Step D: 1-(1-Benzylpiperidin-4-yl)-4-phenyl-1-butanone
To a solution of 4-(4-phenylbutylidene)-1-benzylpiperidine (from the Step C) (4.37 g) in anhydrous ether (150 mL) under nitrogen with stirring was add 1M borane solution in TEF (45 mL). The reaction was stirred for 3 h when water (2 mL) was added dropwise. The mixture was stirred a further 30 min and was then cooled in an ice bath. A solution of chromic anhydride (2.5 g), concentrated sulfuric acid (5.44 mL) and water (125 mL) was added dropwise with vigorous magnetic stirring over 5 min. After another 5 min, the ice bath was removed. After 1.5 h at rt, 0.5N sodium hydroxide and ether (400 mL each) were added and the mixture was stirred until the residue dissolved. The layers were separated and the aqueous layer was extracted twice with ether. The combined ether layers were washed with an aqueous EDTA solution, water and brine (100 mL each), dried over sodium sulfate and concentrated under reduced pressure to give a colorless gel. Flash chromatography on silica gel with 30-50% ethyl acetate in hexanes with 3% (v/v) TEA gave the title compound (1 g) as a colorless gel. Rf: 0.43 (30% ethyl acetate in hexanes with 3% (v/v) TEA). 1H NMR (500 MHz, CDCl3): δ7.25-7.33 (m, 7 H), 7.16-7.22 (m, 3 H), 3.51 (s, 2 H), 2.89-2.93 (m, 2 H), 2.63 (t, J=7.6 Hz, 2 H), 2.46 (t, J=7.2 Hz, 2 H), 2.38 (tt, J=11.5 and 3.9 Hz, 1 H), 1.99-2.03 (m, 2 H), 1.92 (tt, J=7.2 and 7.6 Hz, 2 H), 1.76-1.81 (m, 2 H), 1.65-1.72 (m, 2 H).

reactant | 4-(4-phenylbutylidene)-1-benzylpiperidine | C1(=CC=CC=C1)CCCC=C1CCN(CC1)CC1=CC=CC=C1 | C22H27N
reactant | borane | 1M | B | BH3
reactant | water | 2 mL | O | H2O
reactant | sulfuric acid | 5.44 mL | S(O)(O)(=O)=O | H2O4S
reactant | water | 125 mL | O | H2O
solvent | ether | 150 mL | CCOCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1-Benzylpiperidin-4-yl)-4-phenyl-1-butanone | 1 g | C(C1=CC=CC=C1)N1CCC(CC1)C(CCCC1=CC=CC=C1)=O | C22H27NO
